US08044075B2
3-chloro-5-[(ethylamino)sulfonyl]-2-fluorobenzoic acid
3-chloro-2-fluorobenzoic acid (200 mg, 1.146 mmol) in chlorosulfonic acid (1.535 ml, 22.92 mmol) was stirred at room temperature for 30 seconds, then microwaved at 200 degrees for 10 rains. The reaction mixture was cooled to room temperature and dumped on ice (10 g) slowly. Ethyl acetate (25 ml) was added and extracted twice with ethyl acetate (10 mL X2). The combined organic phase was dried over MgSO4. Ethylamine (1833 μl, 3.67 mmol) in THF (2.0 M) was added, stirred at room temperature for 10 mins and washed with 1 N HCl (10 ml). The organic phase was dried over MgSO4 and concentrated to give the title compound, which was carried the next step without further purification.

reactant | 3-chloro-2-fluorobenzoic acid | 1.146 mmol, 200 mg | ClC=1C(=C(C(=O)O)C=CC1)F | C7H4ClFO2
reactant | chlorosulfonic acid | 22.92 mmol, 1.535 ml | ClS(=O)(=O)O | ClHO3S
reactant | Ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
reactant | Ethylamine | 3.67 mmol, 1833 μl | C(C)N | C2H7N
solvent | THF | 2.0 M | C1CCOC1 | C4H8O
product | 3-chloro-5-[(ethylamino)sulfonyl]-2-fluorobenzoic acid | ClC=1C(=C(C(=O)O)C=C(C1)S(=O)(=O)NCC)F | C9H9ClFNO4S
